US05583127
3-(3β,14β-Dihydroxy-5β-androstane-17β-yl)propionaldehyde (II-c)
A mixture of 6.00 g of (E)-3β,14β-dihydroxy-5β-pregn-20-ene-21-carboxaldehyde (Fullerton D. S. and Pankaskie M. C., J. Med. Chem., 1976, 19, 1330) and 1.20 g of 5% palladium on charcoal in 1.20 l of ethanol was hydrogenated at room temperature and atmospheric pressure for 30 min. The mixture was then filtered through Celite and ethanol was evaporated to dryness to give 5.95 g of the title compound (II-c) as a white solid.

reactant | (E)-3β,14β-dihydroxy-5β-pregn-20-ene-21-carboxaldehyde | 6.00 g | O[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@H](/C=C/C=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O | C22H34O3
catalyst | palladium on charcoal | 1.20 g | [Pd] | Pd
solvent | ethanol | 1.20 l | C(C)O | C2H6O
product | 3-(3β,14β-Dihydroxy-5β-androstane-17β-yl)propionaldehyde | 5.95 g | O[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)CCC=O)O | C22H36O3
